US07829563B2
2-[1-(3,4-Dimethoxy-phenyl)-3-(4-trifluoromethyl-phenyl)-propylamino]-2-pyridin-3-yl-acetamide
To a solution of rac 1-(3,4-dimethoxy-phenyl)-3-(4-trifluoromethyl-phenyl)-propylamine (accessed according to the procedure described for example 126 and 127, step 2 from 2-methyl-propane-2-sulfinic acid [1-(3,4-dimethoxy-phenyl)-3-(4-trifluoromethyl-phenyl)-propyl]-amide, 213 mg, 0.63 mmol) in THF (2 mL) was added 3-pyridinecarboxaldehyde (71 μl, 0.75 mmol), trimethylsilyl cyanide (118 μl, 0.94 mmol) and a catalytic amount of zinc iodide. The solution was stirred for 3 h at ambient temperature before it was diluted with DMSO (0.5 mL) and potassium carbonate (35 mg, 0.25 mmol) and hydrogen peroxide (35% in water, 82 μl, 0.94 mmol) were added. After stirring for 18 h at ambient temperature further hydrogen peroxide (35% in water, 41 μl, 0.47 mmol) was added and stirring continued for 3 h. It was diluted with methanol (0.5 mL) and palladium on charcoal 10% (5 mg) and acetic acid (50 μl) were added. Under an hydrogen atmosphere of hydrogen the reaction mixture was stirred for 3 h at ambient temperature. Sodium borohydride (50 mg) was added and the stirring was continued for 1 h. Purification by chromatography (SiO2, heptane:(ethyl acetate:triethylamine=95:5)=50:50 to 0:100) afforded the title compound as a racemic mixture (1:1) of diastereomers (127 mg, 43%) as a white solid. MS m/e: 472.5 [M−H]−

reactant | rac 1-(3,4-dimethoxy-phenyl)-3-(4-trifluoromethyl-phenyl)-propylamine | COC=1C=C(C=CC1OC)C(CCC1=CC=C(C=C1)C(F)(F)F)N | C18H20F3NO2
reactant | 2-methyl-propane-2-sulfinic acid [1-(3,4-dimethoxy-phenyl)-3-(4-trifluoromethyl-phenyl)-propyl]-amide | COC=1C=C(C=CC1OC)C(CCC1=CC=C(C=C1)C(F)(F)F)NS(=O)C(C)(C)C | C22H28F3NO3S
reactant | 3-pyridinecarboxaldehyde | 0.75 mmol, 71 μl | N1=CC(=CC=C1)C=O | C6H5NO
reactant | trimethylsilyl cyanide | 0.94 mmol, 118 μl | C[Si](C)(C)C#N | C4H9NSi
reactant | potassium carbonate | 0.25 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 0.94 mmol, 82 μl | OO | H2O2
reactant | hydrogen peroxide | 0.47 mmol, 41 μl | OO | H2O2
reactant | hydrogen | [H][H] | H2
reactant | Sodium borohydride | 50 mg | [BH4-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | methanol | 0.5 mL | CO | CH4O
catalyst | palladium on charcoal | 5 mg | [Pd] | Pd
catalyst | zinc iodide | [I-].[Zn+2].[I-]
solvent | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
product | 2-[1-(3,4-Dimethoxy-phenyl)-3-(4-trifluoromethyl-phenyl)-propylamino]-2-pyridin-3-yl-acetamide | COC=1C=C(C=CC1OC)C(CCC1=CC=C(C=C1)C(F)(F)F)NC(C(=O)N)C=1C=NC=CC1 | C25H26F3N3O3
